US05292732
N-Acetylethylenediamine (15.5 g) was dissolved in 300 ml of methylene chloride under argon, treated in succession with 260 g of molecular sieve 4 Å and a solution of 30.8 g of 5-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetaldehyde in 150 ml of methylene chloride and refluxed for 23 hours while stirring. The reaction mixture was cooled, filtered over a Celite® pad and the filtrate was freed from solvent. The crude product, 37.5 g of brown, amorphous material, was dissolved in a 6-fold amount of hot ethyl acetate and, after the addition of an 8-fold amount of hexane boiled briefly. There were obtained 29.4 g (74%) of N-[2-(6-chloro-4,5-dihydro-1H-benz[g]indol-1-yl)-ethyl]acetamide; m.pt.: 124°-126° C.

reactant | N-Acetylethylenediamine | 15.5 g | C(C)(=O)NCCN | C4H10N2O
reactant | 5-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetaldehyde | 30.8 g | ClC1=C2CCC(C(C2=CC=C1)=O)CC=O | C12H11ClO2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(6-chloro-4,5-dihydro-1H-benz[g]indol-1-yl)-ethyl]acetamide | 29.4 g, 74% | ClC1=CC=CC2=C1CCC=1C=CN(C21)CCNC(C)=O | C16H17ClN2O
